US05382688
1,1-Bis[4-(4-nitrobenzyl)phenyl]-4-butylcyclohexane 38.0 g was dissolved in 500 ml of tetrahydrofuran, a Pd--C catalyst (5% purity, water content 55.9%) 4.0 g was added, and the mixture was cooled with water at atmospheric pressure and contacted with hydrogen gas with stirring. After the absorption of hydrogen stopped, the catalyst was filtered off and the solution was concentrated. The concentrate was recrystallized with mixture solvent of ethanol 87% and methanol 13% to obtain 1,1-bis[4-(4-aminobenzyl)phenyl]-4-butylcyclohexane 14.22 g which is a diamino compound of the present invention. The melting point was 58.5°-60.1° C.

reactant | 1,1-Bis[4-(4-nitrobenzyl)phenyl]-4-butylcyclohexane | 38.0 g | [N+](=O)([O-])C1=CC=C(CC2=CC=C(C=C2)C2(CCC(CC2)CCCC)C2=CC=C(C=C2)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C36H38N2O4
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1,1-bis[4-(4-aminobenzyl)phenyl]-4-butylcyclohexane | 14.22 g | NC1=CC=C(CC2=CC=C(C=C2)C2(CCC(CC2)CCCC)C2=CC=C(C=C2)CC2=CC=C(C=C2)N)C=C1 | C36H42N2
